data/pmechdb/original/mc_train_fold0/raw/train.txt
CC=CCO[C:20](C)([O-:10])[O:21]C(=O)C>>CC=CCO[C:20](=[O:10])C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])C1=C(C=CC=C1)Cl.CC[O-:10]>>[H:20][O:10]CC.[CH2:21]=[C:22](C1=C(C=CC=C1)Cl)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C.COC(C1=CC2=C(C=C1)C=CN2)(O)[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]C(C1=CC2=C(C=C1)C=CN2)(O)OC.C[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH+:21]C(C)(O)OC=O.[OH2:10]>>CC(O)([OH:21])OC=O.[H:20][OH2+:10] 10=20;20,21=21
[H:20][Br:21].CC(C)(C)[O:10]C>>[H:20][O+:10](C)C(C)(C)C.[Br-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.COC1=C2C3=C(CC4C5C3(CCN4)C(O2)[C:11](=[CH:10]C5)[OH:12])C=C1.CO>>[H:20][CH:10]1CC2C3CC4=C5C2(CCN3)C([C:11]1=[OH+:12])OC5=C(C=C4)OC.CS(=O)(=O)[O-:21].CO 10,11=10,20;20,21=21;12=11
[CH3:1][CH2:2][CH2:3][CH2:4][C:5]1=[CH:6][CH:7]=[CH:8][S:9]1.[CH3:10][C+:11]([CH3:12])[C:13]1=[CH:14][CH:15]=[CH:16][CH:17]=[CH:18]1.[F:19][P-:20]([F:21])([F:22])([F:23])([F:24])[F:25]>>[CH3:1][CH2:2][CH2:3][CH2:4][C:5]1=[CH:6][CH+:7][CH:8]([S:9]1)[C:11]([CH3:12])([CH3:10])[C:13]2=[CH:18][CH:17]=[CH:16][CH:15]=[CH:14]2.[F:25][P-:20]([F:24])([F:22])([F:19])([F:23])[F:21] 7,8=8,11
[H:20][NH+:21]1CCN2C(=CC(=N2)C3=CC=CC=C3)C1(CC4CCCCC4)[O-].CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.C1CCC(CC1)CC2(C3=CC(=NN3CC[NH:21]2)C4=CC=CC=C4)[O-] 10=20;20,21=21
CCCCCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)CC(C)C)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)CC(C)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CCC1C=CC=CC(C(O1)C[CH:20]2[CH:10]([Si-:11]([O:21]2)(C(C)C)(C(C)C)C(C)C)C#C[Si](C(C)C)(C(C)C)C(C)C)O[Si](C)(C)C(C)(C)C.[Li+].CCCC>>CCC1C=CC=CC(C(O1)C[CH:20]=[CH:10]C#C[Si](C(C)C)(C(C)C)C(C)C)O[Si](C)(C)C(C)(C)C.CC(C)[Si:11](C(C)C)(C(C)C)[O-:21].[Li+].CCCC 10,11=10,20;20,21=21
CC(=[O:10])O.C[C+:20](C)C1=CC=CC=C1>>CC(=[O+:10][C:20](C)(C)C1=CC=CC=C1)O 10=20,
[H:20][O+:21](CCC1=CC=C(C=C1)N(=O)=O)P(C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)N(C(=O)OCC)NC(=O)OCC.CC(C)(C)OC(=O)N1CCC2=C3C=C(NC3=CC=C21)C(=O)[O-:10]>>[H:20][O:10]C(=O)C1=CC2=C3CCN(C3=CC=C2N1)C(=O)OC(C)(C)C.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]CCC4=CC=C(C=C4)N(=O)=O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1C([O:10]1)CCCO>>[H:20][O+:10]1C(C1CCCO)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][N+:21](=C1C(=CC2=CC=C(C=C2)O)C(N(C1=O)C3=CC=CC=C3)C4=CC=C(C=C4)OC)C5=C(C=CC=C5)O.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.COC1=CC=C(C=C1)C2C(=CC3=CC=C(C=C3)O)C(=[N:21]C4=C(C=CC=C4)O)C(=O)N2C5=CC=CC=C5.O 10=20;20,21=21
CC1(CC(CC(O1)CC(C(CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)N[P+:20](C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)OC)OCC8=CC=C(C=C8)OC)OC.[OH-:10].N#N>>CC1(CC(CC(O1)CC(C(CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)N[P:20](C5=CC=CC=C5)(C6=CC=CC=C6)(C7=CC=CC=C7)[OH:10])OC)OCC8=CC=C(C=C8)OC)OC.N#N 10=20,
CCO[C:11](=[CH:10]C[N+]12CCN(CC1)CC2)[O-:12].COC1=C(C=CC=C1)[CH:20]=[O:21]>>CCO[C:11](=[O:12])[CH:10](C[N+]12CCN(CC1)CC2)[CH:20](C3=C(C=CC=C3)OC)[O-:21] 10,11=10,20;20,21=21;12=11
[CH3:20][O:21][P+:22](O)(O)O.[Cl-:10]>>[CH3:20][Cl:10].O[P:22](=[O:21])(O)O 10=20;20,21=21,22
[H:20][O:21]C(C)(C)C.CCOC(=O)C1CCC[C:10](=[C:11]1[O-:12])C>>[H:20][C:10]1(CCCC([C:11]1=[O:12])C(=O)OCC)C.CC(C)(C)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(C=C(C=C[C+:22]1O)C)N=NC2=CC=CC=C2.[Cl-:10]>>[H:20][Cl:10].CC1=C[C:21](=[C:22](C=C1)O)N=NC2=CC=CC=C2 10=20;20,21=21,22
CC(C[CH:11]=[CH:10]CO[Si](C1=CC=CC=C1)(C2=CC=CC=C2)C(C)(C)C)[O+:21]=[CH2:20].C[O+]1CCO[Ti-2]1(Cl)(Cl)(Cl)Cl>>CC1C[CH+:11][CH:10]([CH2:20][O:21]1)CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C.C[O+]1CCO[Ti-2]1(Cl)(Cl)(Cl)Cl 10,11=10,20;20,21=21
[H:20][CH2:21][C:22](=[OH+:23])CCCC(=O)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)CCC[C:22](=[CH2:21])[OH:23] 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C1(CCC(CC1)N2C=C(C=N2)I)OCCO.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>[H:20][N+:10]1=CC=CC=C1.C1CC(CCC1N2C=C(C=N2)I)([OH:21])OCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
CCC[NH2:10].C1=CC(=CC=C1[CH2:20][Cl:21])C#N>>CCC[NH2+:10][CH2:20]C1=CC=C(C=C1)C#N.[Cl-:21] 10=20;20,21=21
[H:20][O+:21](CC)C1CCCCO1.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C1CCCCO1 10=20;20,21=21
[B-:10]([O+:11]=COCCC)(F)(F)F>>[B:10](F)(F)F.CCCOC=[O:11] 10,11=11
[B-](OC(C[C+](C[Si:20](C)(C)C)C(C)COCC1=CC=C(C=C1)OC)C2C(O2)CC(=C)Br)(F)(F)F.CC[O:10]CC>>[B-](OC(C[C+](C[Si-:20](C)(C)(C)[O+:10](CC)CC)C(C)COCC1=CC=C(C=C1)OC)C2C(O2)CC(=C)Br)(F)(F)F 10=20,
C=CC(=[O:10])OC1=CC=CC=C1.C1=CC=C(C=C1)C2=C(C(=CC=C2)C3=CC=CC=C3)O[Al:20](N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)OC4=C(C=CC=C4C5=CC=CC=C5)C6=CC=CC=C6>>C=CC(=[O+:10][Al-:20](N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)(OC1=C(C=CC=C1C2=CC=CC=C2)C3=CC=CC=C3)OC4=C(C=CC=C4C5=CC=CC=C5)C6=CC=CC=C6)OC7=CC=CC=C7 10=20,
CC(C(=O)O)NC(=O)CNC(=O)C(CCSC)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C(=O)O)NC(=O)CNC(=O)C(CCSC)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
